US20010046993A1
F. 3-(4-Benzyl-1-piperazinyl)propanenitrile
A mixture of acrylonitrile (5.6 ml/85.1 mmol) and benzylpiperazine (5.0 g/28.3 mmol) in benzene (28 ml) was refluxed for 10 hours. After cooling down, the mixture was concentrated in vacuo and the residue was purified by column chromatography (NH2 gel/200-350 mesh/100 g/dichloromethane) to give a pale brown oil (5.5 g/85%).

reactant | acrylonitrile | 85.1 mmol, 5.6 ml | C(C=C)#N | C3H3N
reactant | benzylpiperazine | 28.3 mmol, 5.0 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | benzene | 28 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-Benzyl-1-piperazinyl)propanenitrile | C(C1=CC=CC=C1)N1CCN(CC1)CCC#N | C14H19N3
